US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(cis-2-methoxycinnamoyl)-L-lysine (Compound No. 186)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with cis-2-methoxycinnamic acid under the conditions described in example 86 to yield 32% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | cis-2-methoxycinnamic acid | COC1=C(\C=C/C(=O)O)C=CC=C1 | C10H10O3
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-(cis-2-methoxycinnamoyl)-L-lysine | 32% | C(C(C)C)N([C@@H](CCCCNC(\C=C/C1=C(C=CC=C1)OC)=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C26H33N3O8S
